### PR TITLE
[Merged by Bors] - feat: standard part in non-Archimedean field

### PR DESCRIPTION
**Pull request by vihdzp**
We define `ArchimedeanClass.stdPart x` as the unique real number with an infinitesimal difference from `x`. This generalizes `Hyperreal.st` for a general (non-)archimedean field.

---

- [x] depends on: #29611
- [x] depends on: #29685
- [x] depends on: #29735
- [x] depends on: #30486
- [x] depends on: #32212

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 1]
```diff
@@ -0,0 +1,322 @@
...
+  {K : Type*} [LinearOrder K] [Field K] [IsOrderedRing K] {x y : K}
+  {R : Type*} [LinearOrder R] [CommRing R] [IsOrderedRing R] [Archimedean R]
+
+/-! ### Finite residue field -/
+
+variable (K) in
+/-- The valuation subring of elements in non-negative Archimedean classes, i.e. elements bounded by
+some natural number. -/
+protected noncomputable def Finite : ValuationSubring K :=
+  (addValuation K).toValuation.valuationSubring
```
Comment (plp127) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean:54]: I think we wanted to move away from using `Valuation` and towards `ValuativeRel`.

File: Mathlib/Data/Real/StandardPart.lean [hunk 2]
```diff
@@ -0,0 +1,322 @@
...
+
+@[simp]
+theorem mk_natCast (n : ℕ) (h : (n : K) ∈ ArchimedeanClass.Finite K) :
+    (⟨n, h⟩ : ArchimedeanClass.Finite K) = n := rfl
+
+@[simp]
+theorem mk_intCast (n : ℤ) (h : (n : K) ∈ ArchimedeanClass.Finite K) :
+    (⟨n, h⟩ : ArchimedeanClass.Finite K) = n := rfl
+
+instance : IsStrictOrderedRing (ArchimedeanClass.Finite K) where
```
Comment (plp127) [inline Mathlib/Data/Real/StandardPart.lean]: Does this work for any subring?

File: Mathlib/Data/Real/StandardPart.lean [hunk 3]
```diff
@@ -0,0 +1,322 @@
...
+theorem not_isUnit_iff_mk_pos {x : ArchimedeanClass.Finite K} : ¬ IsUnit x ↔ 0 < mk x.1 :=
+  Valuation.Integer.not_isUnit_iff_valuation_lt_one
+
+theorem isUnit_iff_mk_eq_zero {x : ArchimedeanClass.Finite K} : IsUnit x ↔ mk x.1 = 0 := by
+  rw [← not_iff_not, Finite.not_isUnit_iff_mk_pos, lt_iff_not_ge, x.2.ge_iff_eq']
+
+end Finite
+
+variable (K) in
+/-- The residue field of `ArchimedeanClass.Finite`. By choosing arbitrary representatives from `K`,
```
Comment (plp127) [inline Mathlib/Data/Real/StandardPart.lean]: We don't choose arbitrary representatives (at least I hope not).

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 4]
```diff
@@ -0,0 +1,322 @@
...
+
+end FiniteResidueField
+
+/-! ### Standard part -/
+
+/-- The standard part of an `ArchimedeanClass.Finite` element is the unique real number with an
+infinitesimal difference.
+
+For any infinite inputs, this function outputs a junk value of 0. -/
+noncomputable def standardPart (x : K) : ℝ :=
```
Comment (plp127) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: This definition gets `@[expose]` since you put `@[expose] public section` at the top, but I'm not sure we want to expose this.

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:54]: I wasn't aware of this development. But I can't imagine that applies to `ValuationSubring` as well?

File: Mathlib/Data/Real/StandardPart.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Data/Real/StandardPart.lean]: Yep, I've golfed the code a bit.

File: Mathlib/Data/Real/StandardPart.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Data/Real/StandardPart.lean]: We don't, but that's just a simple way to explain what the ordering is. Any better ideas?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: I agree that we probably don't. I still don't understand how the module system works, how do I fix this?

Comment (plp127) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: You can do `@[no_expose]` I think

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:54]: Do we want to delete absolutely all use of Valuation? I understand we want to use ValuativeRel if we talk about "for some valuation on the field", but here we have a concrete valuation already defined.

File: Mathlib/Data/Real/StandardPart.lean (hunk 3 above)
Comment (plp127) [reply Mathlib/Data/Real/StandardPart.lean]: Can't you just say it "inherits an order"?

File: Mathlib/Data/Real/StandardPart.lean [hunk 5]
```diff
@@ -0,0 +1,316 @@
...
+    z * x < z * y := by
+  induction x with | mk x
+  induction y with | mk y
+  induction z with | mk z
+  rw [← map_mul, ← map_mul]
+  rw [← map_zero mk] at hz
+  rw [mk_lt_mk] at h hz ⊢
+  aesop
+
+instance : IsStrictOrderedRing (FiniteResidueField K) where
```
Comment (wwylele) [inline Mathlib/Data/Real/StandardPart.lean]: Since we have `Field` + `IsOrderedRing` -> `IsStrictOrderedRing`, is it shorter to prove `IsOrderedRing` here?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 6]
```diff
@@ -0,0 +1,316 @@
...
+  rw [sub_eq_add_neg, sub_eq_add_neg, standardPart_add hx, standardPart_neg]
+  rwa [mk_neg]
+
+theorem standardPart_mul {x y : K} (hx : 0 ≤ mk x) (hy : 0 ≤ mk y) :
+    standardPart (x * y) = standardPart x * standardPart y := by
+  unfold standardPart
+  rw [dif_pos hx, dif_pos hy, dif_pos]
+  exact map_mul (M := ArchimedeanClass.Finite K) _ ⟨x, hx⟩ ⟨y, hy⟩
+
+theorem standardPart_div (hx : 0 ≤ mk x) (hy : 0 ≤ -mk y) :
```
Comment (wwylele) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]:
```suggestion
theorem standardPart_div (hx : 0 ≤ mk x) (hy : mk y ≤ 0) :
```
Does this read more naturally?

File: Mathlib/Data/Real/StandardPart.lean [hunk 7]
```diff
@@ -0,0 +1,316 @@
...
+    · simp
+    · rw [mk_intCast hn]
+
+@[simp]
+theorem standardPart_natCast (n : ℕ) : standardPart (n : K) = n := by
+  exact_mod_cast standardPart_intCast n
+
+@[simp]
+theorem standardPart_ratCast (q : ℚ) : standardPart (q : K) = q := by
+  have := IsOrderedRing.toIsStrictOrderedRing K
```
Comment (wwylele) [inline Mathlib/Data/Real/StandardPart.lean]: Recently this has been upgraded to a global instance, so I think you don't need it explicitly any more

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 8]
```diff
@@ -0,0 +1,316 @@
...
+public import Mathlib.RingTheory.Valuation.ValuationSubring
+
+/-!
+# Standard part function
+
+Let `K` be a linearly ordered field. The subset of finite elements (i.e. those bounded by a natural
+number) is a `ValuationSubring`, which means we can construct its residue field
+`FiniteResidueField`, roughly corresponding to the finite elements quotiented by infinitesimals.
+This field inherits a `LinearOrder` instance, which makes it into an Archimedean linearly ordered
+field, meaning we can uniquely embed it in the reals.
```
Comment (wwylele) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean:26]: I think we should explain the standard part informally what it represents first ("Rounding to the closest real number and remove the infinitestimal part"). What's written here is implementation detail, which can be the second paragraph.

You can also link to https://en.wikipedia.org/wiki/Standard_part_function to help explaining the idea

File: Mathlib/Data/Real/StandardPart.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/Data/Real/StandardPart.lean]: Ah, we finally made that into an instance? I think this instance can be omitted after #32212, then.

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: These are not equivalent statements! One has `0 ≤ -⊤` but not `⊤ ≤ 0`.

Comment (wwylele) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: I didn't think of that! It is an interesting edge case. If `mk y = ⊤`, then both `y` and `standardPart y` are both zero and we are comparing junk value from division, which happens to still hold. It feels still awkward to me but I don't have a better idea, so I am fine with this.

File: Mathlib/Data/Real/StandardPart.lean [hunk 9]
```diff
@@ -0,0 +1,320 @@
...
+theorem mk_neg (x : K) (h : -x ∈ ArchimedeanClass.Finite K) :
+    (⟨-x, h⟩ : ArchimedeanClass.Finite K) = -⟨x, neg_mem_iff.1 h⟩ := rfl
+
+@[simp]
+theorem mk_natCast (n : ℕ) (h : (n : K) ∈ ArchimedeanClass.Finite K) :
+    (⟨n, h⟩ : ArchimedeanClass.Finite K) = n := rfl
+
+@[simp]
+theorem mk_intCast (n : ℤ) (h : (n : K) ∈ ArchimedeanClass.Finite K) :
+    (⟨n, h⟩ : ArchimedeanClass.Finite K) = n := rfl
```
Comment (erdOne) [inline Mathlib/Data/Real/StandardPart.lean]: These lemmas are really weird. These are general lemmas about `ValuationSubring`s, and I don't expect we would need them.

File: Mathlib/Data/Real/StandardPart.lean [hunk 10]
```diff
@@ -0,0 +1,320 @@
...
+public import Mathlib.Algebra.Ring.Subring.Order
+public import Mathlib.Data.Real.Archimedean
+public import Mathlib.Data.Real.CompleteField
+public import Mathlib.Order.Quotient
+public import Mathlib.RingTheory.Valuation.ValuationSubring
+
+/-!
+# Standard part function
+
+Given a finite element in a non-archimedean field, the standard part function rounds it to the
```
Comment (erdOne) [inline Mathlib/Data/Real/StandardPart.lean]: I get why I am totally confused now.
Perhaps you should say "non-archimedean ordered field" because to me (and probably to lots of other people) non-archimedean field probably means [`NonarchimedeanRing`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Nonarchimedean/Basic.html#NonarchimedeanRing) + field.

**Review by wwylele — APPROVED** [review]

File: Mathlib/Algebra/Order/CompleteField.lean [hunk 11]
```diff
@@ -253,7 +253,6 @@ def inducedAddHom : α →+ β :=
   ⟨⟨inducedMap α β, inducedMap_zero α β⟩, inducedMap_add α β⟩
 
 /-- `inducedMap` as an `OrderRingHom`. -/
-@[simps!]
 def inducedOrderRingHom : α →+*o β :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/CompleteField.lean:257]: What's going on here?

File: Mathlib/Algebra/Order/Ring/Archimedean.lean [hunk 12]
```diff
@@ -145,6 +145,17 @@ theorem mk_map_of_archimedean' [Archimedean S] (f : S →+*o R) {x : S} (h : x 
     mk (f x) = 0 := by
   simpa using mk_map_of_archimedean f.toOrderAddMonoidHom h
 
+theorem mk_le_mk_add_of_archimedean [Archimedean S] (f : S →+*o R) (x : R) (y : S) :
+    mk x ≤ mk (f y) + mk x := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Archimedean.lean:158]: Why is this different to 
```suggestion
theorem mk_le_mk_add_of_archimedean [Archimedean S] (f : S →+*o R) (x : R) (y : S) :
    0 ≤ mk (f y) := by
```
?

File: Mathlib/Data/Real/StandardPart.lean [hunk 13]
```diff
@@ -0,0 +1,311 @@
...
+variable
+  {K : Type*} [LinearOrder K] [Field K] [IsOrderedRing K] {x y : K}
+  {R : Type*} [LinearOrder R] [CommRing R] [IsOrderedRing R] [Archimedean R]
+
+/-! ### Finite residue field -/
+
+variable (K) in
+/-- The valuation subring of elements in non-negative Archimedean classes, i.e. elements bounded by
+some natural number. -/
+protected noncomputable def Finite : ValuationSubring K :=
```
Comment (YaelDillies) [inline Mathlib/Data/Real/StandardPart.lean]:
```suggestion
protected noncomputable def finite : ValuationSubring K :=
```
or are you trying to use this as a type, in which case it should be one?
```suggestion
protected noncomputable def finite : Type _ :=
```

File: Mathlib/Data/Real/StandardPart.lean [hunk 14]
```diff
@@ -0,0 +1,311 @@
...
+  (addValuation K).toValuation.valuationSubring
+
+namespace Finite
+
+@[simp] theorem mem_finite_iff {x : K} : x ∈ ArchimedeanClass.Finite K ↔ 0 ≤ mk x := .rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Real/StandardPart.lean]: drop the namespace?

File: Mathlib/Data/Real/StandardPart.lean [hunk 15]
```diff
@@ -0,0 +1,311 @@
...
+
+theorem mem_map_of_archimedean (f : R →+*o K) (r : R) : f r ∈ ArchimedeanClass.Finite K := by
```
Comment (YaelDillies) [inline Mathlib/Data/Real/StandardPart.lean]:
```suggestion
theorem map_mem_finite_of_archimedean (f : R →+*o K) (r : R) : f r ∈ ArchimedeanClass.Finite K := by
```

File: Mathlib/Order/Quotient.lean [hunk 16]
```diff
@@ -104,7 +104,7 @@ theorem mk_le_mk {x y : α} : Quotient.mk s x ≤ Quotient.mk s y ↔ x ≤ y 
     exact fun h ↦ ((H _).out h₁.symm rfl ⟨h₂, h.le⟩).symm
   · exact .inr (_root_.trans h₁ h₂)
 
-instance [DecidableRel (· ≈ · : α → α → Prop)] : LinearOrder (Quotient s) where
+instance linearOrder [DecidableRel (· ≈ · : α → α → Prop)] : LinearOrder (Quotient s) where
```
Comment (YaelDillies) [inline Mathlib/Order/Quotient.lean]:
```suggestion
instance instLinearOrder [DecidableRel (· ≈ · : α → α → Prop)] : LinearOrder (Quotient s) where
```

File: Mathlib/Algebra/Order/CompleteField.lean (hunk 11 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/CompleteField.lean:257]: The simp lemma [`LinearOrderedField.inducedOrderRingHom_toFun`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/CompleteField.html#LinearOrderedField.inducedOrderRingHom_toFun) is entirely unhelpful, as all it does it rewrite an (essentially arbitrary) map `α →+*o β` as an (essentially arbitrary) map `α →+ β`. That is, it only loses structure.

File: Mathlib/Algebra/Order/Ring/Archimedean.lean (hunk 12 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/Archimedean.lean:158]: If one has `mk x = ⊤` and `mk (f y) < 0` then the former is true while the latter isn't. Valuations are weird.

File: Mathlib/Algebra/Order/CompleteField.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/CompleteField.lean:257]: But surely the answer is that both of them should simplify to `inducedMap`, so you should instead tag `inducedAddHom` with `simps`?

File: Mathlib/Algebra/Order/Ring/Archimedean.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Archimedean.lean:158]: Hmm, okay

File: Mathlib/Algebra/Order/CompleteField.lean (hunk 11 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/CompleteField.lean:257]: These maps are uniquely defined, so I view the precise definition from a supremum of a Dedekind cut to just be an implementation detail. I guess I could avoid this diff if I just used `default` to refer to this map instead.

File: Mathlib/Data/Real/StandardPart.lean (hunk 13 above)
Comment (vihdzp) [reply Mathlib/Data/Real/StandardPart.lean]: Surely it's better to keep it as a `ValuationSubring`? Means we don't have to reprove all the associated boilerplate. I do agree with the lowercase naming.

Comment (YaelDillies) [reply Mathlib/Data/Real/StandardPart.lean]: "surely": not so sure: https://github.com/leanprover-community/blog/pull/86

File: Mathlib/Algebra/Order/CompleteField.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/CompleteField.lean:257]: Yeah, that would work too

File: Mathlib/Data/Real/StandardPart.lean (hunk 13 above)
Comment (vihdzp) [reply Mathlib/Data/Real/StandardPart.lean]: I think this falls into the category of "sees little use", so I'd be inclined to keep it as a `ValuationSubring`. Though if you think another option might be better, I'll oblige.

File: Mathlib/Data/Real/StandardPart.lean (hunk 14 above)
Comment (vihdzp) [reply Mathlib/Data/Real/StandardPart.lean]: What should the theorems `Finite.mk_zero`, `Finite.mk_one`, etc. be renamed to? The theorems `ArchimedeanClass.mk_zero`, etc. already exist.

Comment (YaelDillies) [reply Mathlib/Data/Real/StandardPart.lean]: `mk_finite_zero`?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 17]
```diff
@@ -0,0 +1,307 @@
...
+
+Given a finite element of the field, the `ArchimedeanClass.standardPart` function returns the real
+number corresponding to this unique embedding. This function generalizes, among other things, the
+standard part function on `Hyperreal`.
+
+## Todo
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: nit:
```suggestion
## TODO
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 18]
```diff
@@ -0,0 +1,307 @@
...
+    induction x with | mk x
+    induction y with | mk y
+    induction z with | mk z
+    obtain h | h := mk_le_mk.1 h
+    · exact mk.monotone' <| add_le_add_left h _
+    · rw [h]
+  mul_le_mul_of_nonneg_left _ hx _ _ h := mul_le_mul_of_nonneg_left' h hx
+  mul_le_mul_of_nonneg_right x hx y z h := by
+    simp_rw [mul_comm _ x]
+    exact mul_le_mul_of_nonneg_left' h hx
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean:185]: You should be able to drop
```suggestion
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 19]
```diff
@@ -0,0 +1,307 @@
...
+instance : IsOrderedRing (FiniteResidueField K) where
+  zero_le_one := mk.monotone' zero_le_one
+  add_le_add_left x y h z := by
+    induction x with | mk x
+    induction y with | mk y
+    induction z with | mk z
+    obtain h | h := mk_le_mk.1 h
+    · exact mk.monotone' <| add_le_add_left h _
+    · rw [h]
+  mul_le_mul_of_nonneg_left _ hx _ _ h := mul_le_mul_of_nonneg_left' h hx
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean:182]: ... and therefore you can inline this proof

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 20]
```diff
@@ -0,0 +1,307 @@
...
+theorem mk_finite_neg (x : K) (h : -x ∈ ArchimedeanClass.finite K) :
+    (⟨-x, h⟩ : ArchimedeanClass.finite K) = -⟨x, neg_mem_iff.1 h⟩ := rfl
+
+@[simp]
+theorem mk_finite_natCast (n : ℕ) (h : (n : K) ∈ ArchimedeanClass.finite K) :
+    (⟨n, h⟩ : ArchimedeanClass.finite K) = n := rfl
+
+@[simp]
+theorem mk_finite_intCast (n : ℤ) (h : (n : K) ∈ ArchimedeanClass.finite K) :
+    (⟨n, h⟩ : ArchimedeanClass.finite K) = n := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Aren't these generic subring statements?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 18 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:185]: That doesn't seem to work.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:185]: Ah, it's done for `IsOrderedMonoid` instead. Maybe you could replicate the design (in another PR)?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 20 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: Yes, though none of them seem to exist, and `simp` can't prove any of these directly. I'm also not sure that they can be stated in the generality of `SubringClass`. Can I leave this as a TODO for another PR?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 18 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:185]: This would imply not extending `PosMulMono` and `MulPosMono`, and instead declaring the fields "explicitly", correct? Is that desirable?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: Can you state them for `ValuationSubring`?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:185]: Incorrect. You can give default values to already-declared fields. All you need to do is to not give an expected type like so: `existing_field := default_value` or `existing_field := by auto_param`

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 20 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: Turns out that `simp` does not recognize these theorems unless they're first specialized to `ArchimedeanClass.finite K`.

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 21]
```diff
@@ -79,6 +79,23 @@ instance : SubringClass (ValuationSubring K) K where
...
   neg_mem {_} x := neg_mem _ x
 
+-- TODO: add the following for other substructures.
+
+@[simp] theorem mk_zero {A : ValuationSubring K} (h : 0 ∈ A) : (⟨0, h⟩ : A) = 0 := rfl
+@[simp] theorem mk_one {A : ValuationSubring K} (h : 1 ∈ A) : (⟨1, h⟩ : A) = 1 := rfl
+
+@[simp]
+theorem mk_neg {A : ValuationSubring K} {x : K} (h : -x ∈ A) :
+  (⟨-x, h⟩ : A) = -⟨x, neg_mem_iff.1 h⟩ := rfl
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean]: I'm expecting this to be a simp lemma the other way around

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 22]
```diff
@@ -79,6 +79,23 @@ instance : SubringClass (ValuationSubring K) K where
...
+
+@[simp]
+theorem mk_natCast {A : ValuationSubring K} {n : ℕ} (h : (n : K) ∈ A) :
+  (⟨n, h⟩ : A) = n := rfl
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean]:
```suggestion
    (⟨n, h⟩ : A) = n := rfl
```
Same elsewhere

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: Really? That is very weird. Can you investigate further? This sounds like a bug

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: The issue seems to be with the proof type getting simplified. In the presence of the `mk_zero` simp lemma, the first of these proofs succeeds, while the second fails.
```lean 4
-- succeeds
theorem test₂ : (⟨0, show 0 ∈ ArchimedeanClass.finite K by simp⟩ : ArchimedeanClass.finite K) = 0 := by
  simp

-- fails
theorem test₁ : (⟨0, show 0 ≤ (⊤ : ArchimedeanClass K) by simp⟩ : ArchimedeanClass.finite K) = 0 := by
  simp
```

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean (hunk 21 above)
Comment (vihdzp) [reply Mathlib/RingTheory/Valuation/ValuationSubring.lean]: This lemma has the form `f (-x) = -f x`, which I believe matches our usual convention.

Comment (plp127) [reply Mathlib/RingTheory/Valuation/ValuationSubring.lean]: I would also expect it to be the other way, of the form f (mk ..) = mk ..

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: Why do you end up with `0 ≤ (⊤ : ArchimedeanClass K)`? That indeed looks troublesome

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: Maybe the solution is to just make `Archimedean.finite` into a type proper, instead of a subring.

**Comment by vihdzp** [comment]
I changed the type of `ArchimedeanClass.Finite K` from `ValuationSubring K` to `Type _`, since the previous design was clearly causing problems.

File: Mathlib/Algebra/Order/Ring/Archimedean.lean [hunk 23]
```diff
@@ -145,6 +145,20 @@ theorem mk_map_of_archimedean' [Archimedean S] (f : S →+*o R) {x : S} (h : x 
...
+  obtain rfl | hy := eq_or_ne y 0
+  · simp
+  · rw [mk_map_of_archimedean' f hy, zero_add]
+
+theorem mk_le_add_mk_of_archimedean [Archimedean S] (f : S →+*o R) (x : R) (y : S) :
+    mk x ≤ mk x + mk (f y) := by
+  rw [add_comm]
+  exact mk_le_mk_add_of_archimedean f x y
+
+theorem mk_map_of_archimedean_nonneg [Archimedean S] (f : S →+*o R) (y : S) : 0 ≤ mk (f y) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Archimedean.lean]:
```suggestion
theorem mk_map_nonneg_of_archimedean [Archimedean S] (f : S →+*o R) (y : S) : 0 ≤ mk (f y) := by
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 24]
```diff
@@ -0,0 +1,323 @@
...
+@[simp] theorem val_zero : (0 : ArchimedeanClass.Finite K).1 = 0 := rfl
+@[simp] theorem val_one : (1 : ArchimedeanClass.Finite K).1 = 1 := rfl
+@[simp] theorem val_add (x y : ArchimedeanClass.Finite K) : (x + y).1 = x.1 + y.1 := rfl
+@[simp] theorem val_sub (x y : ArchimedeanClass.Finite K) : (x - y).1 = x.1 - y.1 := rfl
+@[simp] theorem val_mul (x y : ArchimedeanClass.Finite K) : (x * y).1 = x.1 * y.1 := rfl
+
+@[ext] theorem ext {x y : ArchimedeanClass.Finite K} (h : x.1 = y.1) : x = y := Subtype.ext h
+
+/-- The constructor for `ArchimedeanClass.Finite`. -/
+protected def mk (x : K) (h : 0 ≤ mk x) : ArchimedeanClass.Finite K := ⟨x, h⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Why `protected`?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 25]
```diff
@@ -0,0 +1,323 @@
...
+variable
+  {K : Type*} [LinearOrder K] [Field K] [IsOrderedRing K] {x y : K}
+  {R : Type*} [LinearOrder R] [CommRing R] [IsOrderedRing R] [Archimedean R]
+
+/-! ### Finite residue field -/
+
+variable (K) in
+/-- The valuation subring of elements in non-negative Archimedean classes, i.e. elements bounded by
+some natural number. -/
+protected noncomputable def Finite : Type _ :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Is there any chance you could find a better name for this?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 26]
```diff
@@ -0,0 +1,323 @@
...
+
+@[simp] theorem mk_zero (h : 0 ≤ mk (0 : K)) : Finite.mk 0 h = 0 := rfl
+@[simp] theorem mk_one (h : 0 ≤ mk (1 : K)) : Finite.mk 1 h = 1 := rfl
+@[simp] theorem mk_natCast {n : ℕ} (h : 0 ≤ mk (n : K)) : Finite.mk (n : K) h = n := rfl
+@[simp] theorem mk_intCast {n : ℤ} (h : 0 ≤ mk (n : K)) : Finite.mk (n : K) h = n := rfl
+
+@[simp]
+theorem mk_neg {x : K} (h : 0 ≤ mk (-x)) :
+    Finite.mk (-x) h  = -Finite.mk x (by rwa [← mk_neg]) :=
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: Again, I would expect this lemma to be turned around

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: Compare [`Real.mk_neg`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/Basic.html#Real.mk_neg), or [`DFinsupp.mk_neg`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/DFinsupp/Defs.html#DFinsupp.mk_neg), or [`Surreal.mk_neg`](https://vihdzp.github.io/combinatorial-games/CombinatorialGames/Surreal/Basic.html#Surreal.mk_neg). Just how we have `mk (x + y) = mk x + mk y` or `mk (x - y) = mk x - mk y` as standard patterns, we also have `mk (-x) = -mk x`.

As a sanity test, surely we want `simp [sub_eq_add_neg]` to be confluent on `mk (x + -y)`?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 25 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: "Finite element" is the standard terminology for an element in a non-Archimedean field bounded in absolute value by a natural/rational. See for instance page 89 [here](https://www.jstor.org/stable/3038223?read-now=1&seq=3#page_scan_tab_contents).

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 26 above)
Comment (plp127) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: There's definitely a lot of both, see [loogle](https://loogle.lean-lang.org/?q=%22mk%22%2C+%22neg%22%2C+%7C-+_+%3D+_%2C+-_)

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 25 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: I guess that it is weird that `FiniteArchimedeanClass` and `ArchimedeanClass.Finite` mean different things. @wwylele what do you think about this? Maybe the former could be `NeTopArchimedeanClass` instead?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 24 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: I often want to refer to `Finite.mk` and `ArchimedeanClass.mk` in the same theorem.

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 25 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: How about `FiniteElement` here?

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: Sure, I like that.

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 26 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: I guess I can write the lemma the other way around, then flip it back if it starts causing problems.

Comment (plp127) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: > Just how we have `mk (x + y) = mk x + mk y` or `mk (x - y) = mk x - mk y` as standard patterns, we also have `mk (-x) = -mk x`.

I would expect those to be turned the other way too, but I guess that conflicts when `mk` is a homomorphism

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: That seems to go against how `simp` is designed. In the expression `mk x + mk y`, in your average use case, you have four separate terms that could potentially be simplified further (`x`, `y`, `mk x`, `mk y`), while in `mk (x + y)` you only have two (`x` and `y`).

If you want a good example of these `mk_add`, `mk_sub`, `mk_neg` lemmas working nicely, look no further than the CGT repo. The pattern `rw [← Surreal.mk_le_mk]; simp` is quite common there.

Comment (plp127) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: Pushing the `mk` out is good when there are simp lemmas of the form `f (mk x) = g x`, but I guess you could always rephrase those as `f x = g (unmk x)`

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:92]: Eh, if flipping this `simp` lemma starts causing problems we can return to this discussion.

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 27]
```diff
@@ -0,0 +1,324 @@
...
+  unfold FiniteElement; infer_instance
+
+instance : LinearOrder (FiniteElement K) := by
+  unfold FiniteElement; infer_instance
+
+instance : IsStrictOrderedRing (FiniteElement K) := by
+  unfold FiniteElement; infer_instance
+
+namespace FiniteElement
+
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]:
```suggestion
namespace FiniteElement

instance : CommRing (FiniteElement K) := by
  unfold FiniteElement; infer_instance

instance : IsDomain (FiniteElement K) := by
  unfold FiniteElement; infer_instance

instance : ValuationRing (FiniteElement K) := by
  unfold FiniteElement; infer_instance

instance : LinearOrder (FiniteElement K) := by
  unfold FiniteElement; infer_instance

instance : IsStrictOrderedRing (FiniteElement K) := by
  unfold FiniteElement; infer_instance

```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 28]
```diff
@@ -0,0 +1,324 @@
...
+  obtain rfl | hn := eq_or_ne n 0
+  · simp
+  · rw [standardPart, dif_pos]
+    · rw [FiniteElement.mk_intCast]
+      simp
+    · rw [mk_intCast hn]
+
+@[simp]
+theorem standardPart_natCast (n : ℕ) : standardPart (n : K) = n := by
+  exact_mod_cast standardPart_intCast n
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: `by exact_mod_cast` = `by exact mod_cast` = `mod_cast`
```suggestion
@[simp]
theorem standardPart_natCast (n : ℕ) : standardPart (n : K) = n :=
  mod_cast standardPart_intCast n
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 29]
```diff
@@ -0,0 +1,324 @@
...
+theorem standardPart_intCast (n : ℤ) : standardPart (n : K) = n := by
+  obtain rfl | hn := eq_or_ne n 0
+  · simp
+  · rw [standardPart, dif_pos]
+    · rw [FiniteElement.mk_intCast]
+      simp
+    · rw [mk_intCast hn]
+
+@[simp]
+theorem standardPart_natCast (n : ℕ) : standardPart (n : K) = n := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Can we also get `standardPart_ofNat` please?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 30]
```diff
@@ -0,0 +1,324 @@
...
+end FiniteResidueField
+
+/-! ### Standard part -/
+
+/-- The standard part of an `FiniteElement` element is the unique real number with an
+infinitesimal difference.
+
+For any infinite inputs, this function outputs a junk value of 0. -/
+@[no_expose]
+noncomputable def standardPart (x : K) : ℝ :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: What about
```suggestion
noncomputable def stdPart (x : K) : ℝ :=
```
? I foresee this definition getting a lot of use and its name being shortened in lemma names as a consequence. Furthermore, this abbreviation is std.

Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: What about
```suggestion
noncomputable def stdPart (x : K) : ℝ :=
```
? I foresee this definition getting a lot of use and its name being shortened in lemma names as a consequence

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: I'm all for abbreviated names. We already have `Hyperreal.st` (which this is intending to replace), so this should be fine.

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 31]
```diff
@@ -267,58 +267,62 @@ theorem standardPart_inv (x : K) : standardPart x⁻¹ = (standardPart x)⁻¹ :
...
 
 @[simp]
-theorem standardPart_natCast (n : ℕ) : standardPart (n : K) = n :=
-  mod_cast standardPart_intCast n
+theorem stdPart_natCast (n : ℕ) : stdPart (n : K) = n :=
+  mod_cast stdPart_intCast n
 
 @[simp]
-theorem standardPart_ratCast (q : ℚ) : standardPart (q : K) = q := by
+theorem stdPart_ofNat (n : ℕ) [n.AtLeastTwo] : stdPart (K := K) ofNat(n) = n :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Why not
```suggestion
theorem stdPart_ofNat (n : ℕ) [n.AtLeastTwo] : stdPart (ofNat(n) : K) = n :=
```
like the other ones?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 32]
```diff
@@ -0,0 +1,328 @@
...
+    exact mk.map_mul
+      (.mk _ (mk_map_nonneg_of_archimedean f x)) (.mk _ (mk_map_nonneg_of_archimedean f y))
+  monotone' x y h := mk.monotone' <| f.monotone' h
+
+end FiniteResidueField
+
+/-! ### Standard part -/
+
+/-- The standard part of a `FiniteElement` is the unique real number with an infinitesimal
+difference.
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean:238]: Can you add that as a lemma characterizing this def?

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:238]: I had that on a follow-up PR, but I can move it here.

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:238]: Just added this theorem, along with some prerequisite lemmas.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
